US09024032B2
To a 20 mL microwave vial (Biotage) was added {3-[(4-methoxybenzyl)oxy]-4-oxo-4H-1,2′-bipyridin-4′-yl}boronic acid (300 mg, 0.85 mmol), iodobenzene (348 mg, 1.70 mmol), cesium carbonate (6 mL of a 1.0 M aq solution, 6.0 mmol), and 69.6 mg (0.085 mmol) 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex. The vial was sealed and the reaction mixture was heated at 135° C. under microwave irradiation for 15 minutes, then cooled. The organic layer was separated, washed with 5 mL water, dried over Na2SO4, filtered, and concentrated in vacuo. Purification by flash chromatography (silica gel, 0-10% MeOH in EtOAc gradient) afforded 3-[(4-methoxybenzyl)oxy]-4′-phenyl-4H-1,2′-bipyridin-4-one. LCMS (M+H)+=385.4.

reactant | {3-[(4-methoxybenzyl)oxy]-4-oxo-4H-1,2′-bipyridin-4′-yl}boronic acid | 0.85 mmol, 300 mg | COC1=CC=C(COC2=CN(C=CC2=O)C2=NC=CC(=C2)B(O)O)C=C1 | C18H17BN2O5
reactant | iodobenzene | 1.70 mmol, 348 mg | IC1=CC=CC=C1 | C6H5I
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
product | 3-[(4-methoxybenzyl)oxy]-4′-phenyl-4H-1,2′-bipyridin-4-one | COC1=CC=C(COC2=CN(C=CC2=O)C2=NC=CC(=C2)C2=CC=CC=C2)C=C1 | C24H20N2O3
